US07465825B2
A solution of 3-thiolpropanoic acid methyl ester (1.2 g, 10 mmol) and 4-bromobenzyl-bromide (2.5 g, 10 mmol) in DMF (20 mL) was cooled to 0° C. and treated with Cs2CO3 (3.9 g, 12 mmol). After stirred for 2 h, the reaction was quenched with 5% HCl (25 mL) and diluted with ethyl acetate (50 mL). After seperation, the aqueous layer extracted with ethyl acetate (3×15 mL). The combined organic layers were washed with sat. aq NaCl, dried over MgSO4 and concentrated. Purification by flash column chromatography (2-5% ethyl acetate in heptane) provided 3-(4-bromophenylmethylsulfanyl)-propanoic acid methyl ester (2.5 g, 87%) as white solid. 1H NMR (CDCl3), 7.43 (d, J=8 Hz, 2 H), 7.20 (d, J=8 Hz, 2 H), 3.68 (s, 5 H), 2.67 (m, 2 H), 2.56 (t, J=6 Hz, 2 H).

reactant | 3-thiolpropanoic acid methyl ester | 10 mmol, 1.2 g | COC(CCC1=CSC=C1)=O | C8H10O2S
reactant | 4-bromobenzyl-bromide | 10 mmol, 2.5 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
reactant | Cs2CO3 | 12 mmol, 3.9 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 3-(4-bromophenylmethylsulfanyl)-propanoic acid methyl ester | 2.5 g, 87% | COC(CCSCC1=CC=C(C=C1)Br)=O | C11H13BrO2S
